US07056916B2
(d) 6-benzyloxy-8-{2-[2-(4-ethylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one
The target compound is prepared analogously to the method for Example 8(d) from 2.14 g (6.0 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 1.0 g (5.6 mmol) of 2-(4-ethylphenyl)-1,1-dimethylethylamine. White solid. Yield: 1.7 g (54%, hydrochloride); melting point 210C.–214° C.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 6.0 mmol, 2.14 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 2-(4-ethylphenyl)-1,1-dimethylethylamine | 5.6 mmol, 1.0 g | C(C)C1=CC=C(C=C1)CC(C)(C)N | C12H19N
reactant | hydrochloride | Cl | ClH
product | 6-benzyloxy-8-{2-[2-(4-ethylphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)CC)(C)C)O | C29H34N2O4
